### PR TITLE
[Merged by Bors] - feat(Analysis, Topology): more examples of covering maps involving the complex plane

### PR DESCRIPTION
**Pull request by alreadydone**
---

- [x] depends on: #33726

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Complex/CoveringMap.lean [hunk 1]
```diff
@@ -40,3 +44,84 @@ theorem isCoveringMapOn_exp : IsCoveringMapOn Complex.exp {0}ᶜ :=
...
+  · simpa [derivative_X_pow, hn, show n ≠ 0 by aesop] using fun _ ↦ Ne.symm h
+
+/-- `(· ^ n) : ℂ \ {0} → ℂ \ {0}` is a covering map. -/
+theorem isCoveringMap_npow (n : ℕ) (hn : (n : 𝕜) ≠ 0) :
+    IsCoveringMap fun x : {x : 𝕜 // x ≠ 0} ↦ (⟨x ^ n, pow_ne_zero n x.2⟩ : {x : 𝕜 // x ≠ 0}) := by
+  convert (isCoveringMapOn_npow n hn).isCoveringMap_restrictPreimage.comp_homeomorph (.setCongr _)
+    using 1
+  ext; simp [show n ≠ 0 by aesop]; rfl
+
+/-- `(· ^ n) : ℂ \ {0} → ℂ \ {0}` is a covering map. -/
```
Comment (alreadydone) [inline Mathlib/Analysis/Complex/CoveringMap.lean]:
```suggestion
/-- `(· ^ n) : 𝕜 \ {0} → 𝕜 \ {0}` is a covering map (if `n ≠ 0` in `𝕜`). -/
theorem isCoveringMap_npow (n : ℕ) (hn : (n : 𝕜) ≠ 0) :
    IsCoveringMap fun x : {x : 𝕜 // x ≠ 0} ↦ (⟨x ^ n, pow_ne_zero n x.2⟩ : {x : 𝕜 // x ≠ 0}) := by
  convert (isCoveringMapOn_npow n hn).isCoveringMap_restrictPreimage.comp_homeomorph (.setCongr _)
    using 1
  ext; simp [show n ≠ 0 by aesop]; rfl

/-- `(· ^ n) : 𝕜 \ {0} → 𝕜 \ {0}` is a covering map (if `n ≠ 0` in `𝕜`). -/
```

File: Mathlib/Algebra/Polynomial/Eval/Defs.lean [hunk 2]
```diff
@@ -581,6 +581,9 @@ theorem map_comp (p q : R[X]) : map f (p.comp q) = (map f p).comp (map f q) :=
       simp +contextual only [pow_succ, ← mul_assoc, comp, forall_const,
         eval₂_mul_X, imp_true_iff, map_X, Polynomial.map_mul])
 
+theorem eval_X_pow {x : R} (n : ℕ) : (X ^ n : R[X]).eval x = x ^ n := by
+  simp [eval]
+
```
Comment (j-loreaux) [inline Mathlib/Algebra/Polynomial/Eval/Defs.lean:586]: any particular reason this moved? If not, let's move it back to reduce the diff.

File: Mathlib/Analysis/Complex/OpenMapping.lean [hunk 3]
```diff
@@ -169,3 +171,47 @@ theorem AnalyticOnNhd.is_constant_or_isOpen (hg : AnalyticOnNhd ℂ g U) (hU : I
...
     exact (hg w (hs1 hw1)).eventually_constant_or_nhds_le_map_nhds.resolve_left (h w (hs1 hw1))
         (image_mem_map (hs2.mem_nhds hw1))
+
+theorem AnalyticOnNhd.is_constant_or_isOpenMap (hg : AnalyticOnNhd ℂ g .univ) :
+    (∃ w, ∀ z, g z = w) ∨ IsOpenMap g :=
+  (hg.is_constant_or_isOpen PreconnectedSpace.isPreconnected_univ).imp
+    (fun ⟨w, eq⟩ ↦ ⟨w, fun z ↦ eq z ⟨⟩⟩) (· · <| subset_univ _)
+
+theorem Polynomial.C_eq_or_isOpenQuotientMap_eval (p : Polynomial ℂ) :
+    (∃ x, C x = p) ∨ IsOpenQuotientMap p.eval := by
```
Comment (j-loreaux) [inline Mathlib/Analysis/Complex/OpenMapping.lean:181]: This is a very minor nit, but I think it makes more sense to read the declaration this way. If you have some reason to have the way you did, you can leave it that way.
```suggestion
theorem Polynomial.eq_C_or_isOpenQuotientMap_eval (p : Polynomial ℂ) :
    (∃ x, p = C x) ∨ IsOpenQuotientMap p.eval := by
```

File: Mathlib/Topology/Algebra/GroupWithZero.lean [hunk 4]
```diff
@@ -148,6 +148,17 @@ noncomputable def unitsHomeomorphNeZero : G₀ˣ ≃ₜ {g : G₀ // g ≠ 0} :=
   Units.isEmbedding_val₀.toHomeomorph.trans <| show _ ≃ₜ {g | _} from .setCongr <|
     Set.ext fun x ↦ (Units.exists_iff_ne_zero (p := (· = x))).trans <| by simp
 
+variable (G₀) in
+/-- If a group with zero has continuous inversion, then the inversion map restricts to an
+auto-homeomorphism on the set of nonzero elements. -/
+def Homeomorph.inv₀ : {g : G₀ // g ≠ 0} ≃ₜ {g : G₀ // g ≠ 0} where
```
Comment (j-loreaux) [inline Mathlib/Topology/Algebra/GroupWithZero.lean:154]: Honest question: do you think it's better to have this version, or one involving `OpenPartialHomeomorph`?

**Review by j-loreaux — COMMENTED** [review]
I'm pretty much happy with this. I don't have tons to say.

File: Mathlib/Algebra/Polynomial/Eval/Defs.lean (hunk 2 above)
Comment (alreadydone) [reply Mathlib/Algebra/Polynomial/Eval/Defs.lean:586]: It's moved from a section on CommSemiring to a section on Semiring, thereby generalized.

File: Mathlib/Topology/Algebra/GroupWithZero.lean (hunk 4 above)
Comment (alreadydone) [reply Mathlib/Topology/Algebra/GroupWithZero.lean:154]: Good idea! Since there's [OpenPartialHomeomorph.toHomeomorphSourceTarget](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/OpenPartialHomeomorph/Basic.html#OpenPartialHomeomorph.toHomeomorphSourceTarget), I think we should go for the stronger OpenPartialHomeomorph.

File: Mathlib/Analysis/Complex/OpenMapping.lean (hunk 3 above)
Comment (alreadydone) [reply Mathlib/Analysis/Complex/OpenMapping.lean:181]: If I don't change [Polynomial.natDegree_eq_zero](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Polynomial/Degree/Operations.html#Polynomial.natDegree_eq_zero) two proofs will become longer. Should I change it? There's [Polynomial.isUnit_iff](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Polynomial/Degree/Units.html#Polynomial.isUnit_iff) too but Loogle turns up nothing else.

File: Mathlib/Topology/Algebra/GroupWithZero.lean (hunk 4 above)
Comment (alreadydone) [reply Mathlib/Topology/Algebra/GroupWithZero.lean:154]: Unfortunately, importing OpenPartialHomeomorph into this file increases transitive mathlib imports by 19/780=2.4%, exceeding large-import threshold. Do you think that's reasonable?

Comment (j-loreaux) [reply Mathlib/Topology/Algebra/GroupWithZero.lean:154]: ugh... let's just leave it like this. I don't think there's too much to be gained in the `OpenPartialHomeomorph` version because it's only one point that is omitted.

File: Mathlib/Analysis/Complex/OpenMapping.lean (hunk 3 above)
Comment (j-loreaux) [reply Mathlib/Analysis/Complex/OpenMapping.lean:181]: okay, you can leave it.
